US09334263B2
In a sealed tube, the mixture of tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate (1.0 g, 2.9 mmol), ethynylcyclopropane (482 mg, 7.3 mmol), tetrakis(triphenyl-phosphine)palladium (335 mg, 0.29 mmol) and copper(I) iodide (28 mg, 0.15 mmol) in diethylamine (10 mL) and dimethyl sulfoxide (10 mL) was stirred at 100° C. for 3 hours under nitrogen atmosphere. The mixture was then diluted with ethyl acetate (100 mL) and washed with water and brine. The organic phase was dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography eluting with petroleum ether:ethyl acetate=15:1 to afford tert-butyl 4-(5-(cyclopropylethynyl)pyrimidin-2-yl)piperazine-1-carboxylate (930 mg, 98%) as a yellow solid. MS (ES+) C18H24N4O2 requires: 328, found: 329 [M+H]+.

reactant | tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate | 2.9 mmol, 1.0 g | BrC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19BrN4O2
reactant | ethynylcyclopropane | 7.3 mmol, 482 mg | C(#C)C1CC1 | C5H6
solvent | diethylamine | 10 mL | C(C)NCC | C4H11N
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.15 mmol, 28 mg | [Cu]I
product | tert-butyl 4-(5-(cyclopropylethynyl)pyrimidin-2-yl)piperazine-1-carboxylate | 930 mg, 98% | C1(CC1)C#CC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H24N4O2
